US06727264B1
N-(3-{1-[3-(4-BROMOPHENOXY)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure G and Scheme B1 using 1-bromo-4-(3-chloropropoxy)benzene and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: 1H NMR (400 MHz, CDCl3) δ 7.51 (s, 1H), 7.37 (d, 2H, J=7.6 Hz), 7.26 (m, 3H), 6.97 (d, 1H, J=7.7 Hz), 6.79 (d, 2H, J=7.7 Hz), 4.01 (t, 2H, J=5.6 Hz), 3.08 (d, 2H, J=9.4 Hz), 2.53 (m, 4H), 2.05 (m, 4H), 1.84 (m, 4H), 1.24 (d, 6H, J=5.9 Hz); Anal. Calcd for C24H31BrN2O2.HCl+0.34CHCl3: C, 54.5; H, 6.08; N, 5.22. Found: C, 54.5; H, 6.22; N, 5.22; ESMS m/e: 459.1 (M+H)+.

reactant | 1-bromo-4-(3-chloropropoxy)benzene | BrC1=CC=C(C=C1)OCCCCl | C9H10BrClO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[3-(4-BROMOPHENOXY)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | BrC1=CC=C(OCCCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C=C1 | C24H31BrN2O2
